US04361563
(a) 5-Methyl-6-{3-amino-4-[N-acetyl-N-(3-methyl-butyl)-amino]-phenyl}-4,5-dihydro-2H-pyridazine-3-one
6 gm of 5-methyl-6-{3-nitro-4-[N-acetyl-N-(3-methyl-butyl)-amino]-phenyl}-4,5-dihydro-2H-pyridazine-3-one were dissolved in 150 ml of ethanol. 4 gm of Raney-nickel and 3 ml of 98% hydrazine hydrate were added, and the solution was stirred for 30 minutes at room temperature. The catalyst was filtered off, the filtrate was evaporated, and the residue was processed further without further purification.

reactant | 5-methyl-6-{3-nitro-4-[N-acetyl-N-(3-methyl-butyl)-amino]-phenyl}-4,5-dihydro-2H-pyridazine-3-one | 6 gm | CC1CC(NN=C1C1=CC(=C(C=C1)N(CCC(C)C)C(C)=O)[N+](=O)[O-])=O | C18H24N4O4
reactant | hydrazine hydrate | 3 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 4 gm | [Ni] | Ni
product | 5-Methyl-6-{3-amino-4-[N-acetyl-N-(3-methyl-butyl)-amino]-phenyl}-4,5-dihydro-2H-pyridazine-3-one | CC1CC(NN=C1C1=CC(=C(C=C1)N(CCC(C)C)C(C)=O)N)=O | C18H26N4O2
